US05726319
Step A: (R)-α-[(3-t-Butoxycarbonylamino-3-methyl-1-oxobutyl)amino]-1-H-indole-3-propanoic acid benzyl ester
Prepared from D-tryptophan benzyl ester (1 g; 3.40 mmol) and 3-t-butoxycarbonylamino-3-methylbutanoic acid (0.91 g; 4.19 mmol) by the procedure described in Example 6, Step C. The yield was 0.981 g (58%).

reactant | D-tryptophan benzyl ester | 3.40 mmol, 1 g | C(C1=CC=CC=C1)OC([C@H](N)CC1=CNC2=CC=CC=C12)=O | C18H18N2O2
reactant | 3-t-butoxycarbonylamino-3-methylbutanoic acid | 4.19 mmol, 0.91 g | C(C)(C)(C)OC(=O)NC(CC(=O)O)(C)C | C10H19NO4
product | (R)-α-[(3-t-Butoxycarbonylamino-3-methyl-1-oxobutyl)amino]-1-H-indole-3-propanoic acid benzyl ester | C(C1=CC=CC=C1)OC([C@@H](CC1=CNC2=CC=CC=C12)NC(CC(C)(C)NC(=O)OC(C)(C)C)=O)=O | C28H35N3O5
